US09260397B2
1-(4-ethylcarboxyphenyl)-3-hexyl imidazolium bromide
According to the general synthesis procedure, 1.62 mmol (0.350 g) 1-(4-ethylcarboxyphenyl)imidazole and 1.78 mmol (0.294 g, 0.25 ml) 1-bromohexane are dissolved in 5 ml THF and heated for 2.5 h to 100° C.

reactant | 1-(4-ethylcarboxyphenyl)imidazole | 1.62 mmol, 0.350 g | C(C)C1=CC(=C(C=C1)N1C=NC=C1)C(=O)O | C12H12N2O2
reactant | 1-bromohexane | 1.78 mmol, 0.25 ml, 0.294 g | BrCCCCCC | C6H13Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-ethylcarboxyphenyl)-3-hexyl imidazolium bromide | [Br-].C(C)C1=CC(=C(C=C1)[N+]1=CN(C=C1)CCCCCC)C(=O)O | InChI=1S/C18H24N2O2.BrH/c1-3-5-6-7-10-19-11-12-20(14-19)17-9-8-15(4-2)13-16(17)18(21)22;/h8-9,11-14H,3-7,10H2,1-2H3;1H
